US04166813
2-Hydroxy-1,3-bis[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propane (Compound No. 239)
A mixture of 2.2 g of 4-[N-(2,3-epoxypropyl)-N-methylamino]-2,2,6,6-tetramethylpiperidine and 1.7 g of 4-methylamino-2,2,6,6-tetramethylpiperidine in 20 ml of benzene was refluxed, with stirring, for 3 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure and then the resulting residue was distilled in vacuo, giving the desired compound in the form of a colourless, viscous oil boiling at 194°-196° C. at 0.2 mmHg.

reactant | 4-[N-(2,3-epoxypropyl)-N-methylamino]-2,2,6,6-tetramethylpiperidine | 2.2 g | O1C(CN(C)C2CC(NC(C2)(C)C)(C)C)C1 | C13H26N2O
reactant | 4-methylamino-2,2,6,6-tetramethylpiperidine | 1.7 g | CNC1CC(NC(C1)(C)C)(C)C | C10H22N2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-Hydroxy-1,3-bis[N-methyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propane | OC(CN(C1CC(NC(C1)(C)C)(C)C)C)CN(C)C1CC(NC(C1)(C)C)(C)C | C23H48N4O
